US07399759B2
2-(6-Methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.85 g, 5.1 mmol), 2-cyano-6-methylpyridine (0.60 g, 5.1 mmol), triethylamine (1.10 ml, 7.9 mmol) and toluene (1.1 ml) was refluxed for 9 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from ethanol to give the titled compound (0.71 g, 55%).

reactant | methyl thiosalicylate | 5.1 mmol, 0.85 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-methylpyridine | 5.1 mmol, 0.60 g | C(#N)C1=NC(=CC=C1)C | C7H6N2
reactant | triethylamine | 7.9 mmol, 1.10 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 1.1 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.71 g, 55% | CC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2OS
